US05202318
A solution of (S)-2-(1-azabicyclo[2.2.2.]oct-3-yl)-2,3-dihydro-6-nitro-1H-benz[de]isoquinoline-1,3-dione (3.2 g; 8.8 mmol), prepared as in Example 2, in acetic acid (80 mL) was hydrogenated at atmospheric pressure over 10% Pd/C catalyst (1.2 g) for 3 hours. The catalyst was removed by filtration, the filtrate concentrated to a small volume, and the residue dissolved in water. This aqueous solution was added dropwise to dilute NH4OH and the solid that precipitated was collected on a Buechner funnel. Drying under vacuum gave (S)-6-amino-2-(1-azabicyclo[2.2.2]oct-3-yl)-2,3-dihydro-1H-benz[de]isoquinoline-1,3-dione (2.57 g; 7.93 mmol), m.p. 305°-308° C., [α]D25 -44.2° (c=0.373, MeOH).

reactant | 2,3-dihydro-6-nitro-1H-benz[de]isoquinoline-1,3-dione | 8.8 mmol, 3.2 g | [N+](=O)([O-])C=1C=CC=2C(NC(C3=CC=CC1C23)=O)=O | C12H6N2O4
reactant | MeOH | CO | CH4O
reactant | acetic acid | 80 mL | C(C)(=O)O | C2H4O2
catalyst | Pd/C | 1.2 g | [Pd] | Pd
product | (S)-6-amino-2-(1-azabicyclo[2.2.2]oct-3-yl)-2,3-dihydro-1H-benz[de]isoquinoline-1,3-dione | 7.93 mmol, 2.57 g | NC=1C=CC=2C(N(C(C3=CC=CC1C23)=O)[C@@H]2CN3CCC2CC3)=O | C19H19N3O2
